US08357679B2
A: (6-Aminopyridin-3-yl)(4-benzylpiperazin-1-yl)methanone
To a stirred solution of 6-aminonicotinic acid (1 g, 7.24 mmol) in dimethylformamide (50 mL) was added 1-benzylpiperazine (1.258 mL, 1.276 g, 7.24 mmol), triethylamine (2.018 mL, 1.465 g, 14.48 mmol), 1-hydroxybenzotriazole hydrate (1.109 g, 7.24 mmol) and N-(3-dimethylaminopropyl)-N′-ethylcarbodiimide hydrochloride (1.388 g, 7.24 mmol). After being stirred overnight at room temperature the reaction mixture was concentrated under vacuum. Purification by silica chromatography (eluting with 5% methanol/dichloromethane) gave the title compound (1.8 g).

reactant | 6-aminonicotinic acid | 7.24 mmol, 1 g | NC1=NC=C(C(=O)O)C=C1 | C6H6N2O2
reactant | 1-benzylpiperazine | 7.24 mmol, 1.258 mL, 1.276 g | C(C1=CC=CC=C1)N1CCNCC1 | C11H16N2
reactant | triethylamine | 14.48 mmol, 2.018 mL, 1.465 g | C(C)N(CC)CC | C6H15N
reactant | 1-hydroxybenzotriazole hydrate | 7.24 mmol, 1.109 g | O.ON1N=NC2=C1C=CC=C2
reactant | N-(3-dimethylaminopropyl)-N′-ethylcarbodiimide hydrochloride | 7.24 mmol, 1.388 g | Cl.CN(CCCN=C=NCC)C
solvent | dimethylformamide | 50 mL | CN(C=O)C | C3H7NO
product | (6-Aminopyridin-3-yl)(4-benzylpiperazin-1-yl)methanone | 1.8 g | NC1=CC=C(C=N1)C(=O)N1CCN(CC1)CC1=CC=CC=C1 | C17H20N4O
